US08633186B2
A solution of 2-bromo-4-methylbenzonitrile (2.0 g, 10.7 mmol) and CuCN (1.92 g, 21.4 mmol) in NMP (10 mL) was reacted in a microwave for 20 min at 200° C. Upon completion the reaction was cooled to 0° C., and 15% aqueous NH4OH (215 mL) was slowly added. The mixture was stirred at rt for 30 min, then extracted with CH2Cl2. The organic layer was washed with H2O, brine, dried over MgSO4, filtered and concentrated. The residue was purified by flash chromatography (3:1 Hexane:EtOAc) to provide 2-amino-4-methylbenzonitrile (1.24 g, 88%). 1H NMR (400 MHz, CDCl3) δ 1.45 (s, 3H), 5.70 (m, 1H), 5.84 (m, 1H), 6.41 (d, J=8.0 Hz, 1H).

reactant | 2-bromo-4-methylbenzonitrile | 10.7 mmol, 2.0 g | BrC1=C(C#N)C=CC(=C1)C | C8H6BrN
reactant | CuCN | 21.4 mmol, 1.92 g | C(#N)[Cu]
reactant | NH4OH | 215 mL | [NH4+].[OH-]
solvent | NMP | 10 mL | CN1CCCC1=O | C5H9NO
product | 2-amino-4-methylbenzonitrile | 1.24 g, 88% | NC1=C(C#N)C=CC(=C1)C | C8H8N2
